US08703922B2
Synthesis of mono-O-(3,7,11-trimethyldodec-2-enoyl)glycerol
0.90 g (3.5 mmol) of methyl 3,7,11-trimethyldodec-2-enoate was slowly added dropwise to a solution of 0.59 g (6.4 mmol) of glycerol and 0.88 g (6.4 mmol) of potassium carbonate in dry N,N-dimethylformamide (3 mL) at 100° C. After the reaction mixture was stirred at 100° C. for 18 hours, 1M hydrochloric acid was added. The resulting solution was extracted with ether, and the extract was washed with saturated sodium bicarbonate aqueous solution and saturated brine, successively, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated, and the resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane mixture) to obtain 318 mg of the title compound (29% yield) as a colorless viscous product.

reactant | methyl 3,7,11-trimethyldodec-2-enoate | 3.5 mmol, 0.90 g | CC(=CC(=O)OC)CCCC(CCCC(C)C)C | C16H30O2
reactant | glycerol | 6.4 mmol, 0.59 g | OCC(O)CO | C3H8O3
reactant | potassium carbonate | 6.4 mmol, 0.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | mono-O-(3,7,11-trimethyldodec-2-enoyl)glycerol | 318 mg, 29% yield | CC(=CC(=O)OCC(O)CO)CCCC(CCCC(C)C)C | C18H34O4
